US07994211B2
a. (±)-7-Dimethylamino-5-hydroxy-bicyclo[2.2.1]heptan-2-one. (XIV-b): Ra, Rb═CH3
A solution of dimethylamine (2.0 M, 24 ml, 48 mmol) in THF was added to a solution of 2-bromo-bicyclo[3.2.0]heptan-3-ol (4.00 g, 19.5 mmol) in acetone (40 ml) at 0° C. and the mixture allowed to warm to ambient temperature over 1 h and stirred at ambient temperature overnight. The orange solution was filtered and the filtrate was evaporated to dryness. Purification was achieved by column chromatography on silica gel using 5% MeOH in DCM to yield 3.01 g (91%) of the product as a tan powder. LC-MS (Method 2): Rt 0.37 min, m/z 170.09 [MH]+.

reactant | dimethylamine | 48 mmol, 2.0 M, 24 ml | CNC | C2H7N
reactant | 2-bromo-bicyclo[3.2.0]heptan-3-ol | 19.5 mmol, 4.00 g | BrC1C2CCC2CC1O | C7H11BrO
reactant | THF | C1CCOC1 | C4H8O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | (±)-7-Dimethylamino-5-hydroxy-bicyclo[2.2.1]heptan-2-one | 3.01 g, 91% | CN(C1C2C(CC1C(C2)O)=O)C | C9H15NO2
